US08623902B2
At a temperature of 0° C., a solution of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride (0.97 g; 5.0 mmol) in dichloromethane (5 ml) was added dropwise to a stirred suspension of 2-(2,6-dichloro-benzyl)-pyrrolidine (1.20 g; 5.0 mmol), which was prepared as described in example P17, and triethylamine (1.5 g; 15.0 mmol) in dichloromethane (15 ml). The ice bath was removed and reaction mixture was allowed stirring for 15 hours. The reaction mixture was washed with 2M NaOH (20 ml), 2M HCl (20 ml) and saturated NaCl (20 ml) and then dried over Na2SO4. After removal of the solvent, the residue (1.9 g oil) was purified by flash chromatography over silica gel (eluent:cyclohexane/ethyl acetate 3:7). 1.53 g (78.8% of theory) of [2-(2,6-dichloro-benzyl)-pyrrolidin-1-yl]-(3-difluoromethyl-1-methyl-1H-pyrazol-4-yl)-methanone was obtained in form of an oil.

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 5.0 mmol, 0.97 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | 2-(2,6-dichloro-benzyl)-pyrrolidine | 5.0 mmol, 1.20 g | ClC1=C(CC2NCCC2)C(=CC=C1)Cl | C11H13Cl2N
reactant | triethylamine | 15.0 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | [2-(2,6-dichloro-benzyl)-pyrrolidin-1-yl]-(3-difluoromethyl-1-methyl-1H-pyrazol-4-yl)-methanone | 1.53 g, 78.8% | ClC1=C(CC2N(CCC2)C(=O)C=2C(=NN(C2)C)C(F)F)C(=CC=C1)Cl | C17H17Cl2F2N3O
